US06358995B1
(B) 4-Fluoro-2,5-dimethylanisole
17.5 g of 5-fluoro-2-methoxy-4-methylbenzaldehyde was dissolved in 100 ml of methanol, 4.7 g of sodium borohydride was added to the suspension at 0° C. and the resulting mixture was stirred for 30 minutes. Acetone was added to the reaction mixture to decompose excess reagent. The resulting reaction mixture was evaporated and extracted with 150 ml of ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate. After the desiccant was filtered off, the resulting mixture was evaporated to give white crystals. These crystals were dissolved in 50 ml of pyridine, followed by the addition of 19.6 ml of acetic anhydride. The resulting mixture was stirred at room temperature for 4 hours and poured into chilled dilute hydrochloric acid. The resulting mixture was stirred for 30 minutes, followed by the addition of ethyl acetate. The organic layer was separated, washed with water, a saturated aqueous solution of sodium bicarbonate and brine, dried over anhydrous magnesium sulfate. After the desiccant was filtered off, the resulting mixture was evaporated to give a solid. This solid was dissolved in 100 ml of ethyl acetate, followed by the addition of 3 g of 10% palladium/carbon (containing 50% of water). The resulting mixture was subjected to catalytic hydrogenation at ordinary temperature under normal pressure for 3 hours, and the resulting reaction mixture was filtered through Celite. The filtrate was concentrated, and the resulting crude product was purified by silica gel column chromatography to give 9.7 g of the title compound as a colorless oil.

reactant | 5-fluoro-2-methoxy-4-methylbenzaldehyde | 17.5 g | FC=1C(=CC(=C(C=O)C1)OC)C | C9H9FO2
reactant | sodium borohydride | 4.7 g | [BH4-].[Na+]
reactant | acetic anhydride | 19.6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium/carbon | 3 g | [Pd] | Pd
solvent | Acetone | CC(=O)C | C3H6O
product | 4-Fluoro-2,5-dimethylanisole | 9.7 g | FC1=CC(=C(C=C1C)OC)C | C9H11FO
